US05639770
880 mg of trimethylsulfonium iodide was added to a suspension of 172 mg of 60% sodium hydride in 15 ml of dimethyl sulfoxide. The mixture was subjected to a reaction at room temperature for 1 hour. Thereto was dropwise added a solution of 1 g of 2-(3,4-diethoxyphenyl)-4-(6-formyl-2-pyridyl)thiazole dissolved in 20 ml of dimethyl sulfoxide. The mixture was stirred overnight at room temperature. The reaction mixture was poured into 150 ml of ice water. The mixture was subjected to extraction three times with 200 ml of ethyl acetate. The ethyl acetate layer was water-washed and dried over anhydrous sodium sulfate. The solvent was removed. The residue was purified by silica gel column chromatography (elutant: n-hexane/ethyl acetate=4/1) to obtain 760 mg of 2-(3,4-diethoxyphenyl)-4-(6-oxiranyl-2-pyridyl)thiazole.

reactant | trimethylsulfonium iodide | 880 mg | [I-].C[S+](C)C
reactant | sodium hydride | 172 mg | [H-].[Na+]
reactant | 2-(3,4-diethoxyphenyl)-4-(6-formyl-2-pyridyl)thiazole | 1 g | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=NC(=CC=C1)C=O | C19H18N2O3S
solvent | dimethyl sulfoxide | 15 ml | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
product | 2-(3,4-diethoxyphenyl)-4-(6-oxiranyl-2-pyridyl)thiazole | 760 mg | C(C)OC=1C=C(C=CC1OCC)C=1SC=C(N1)C1=NC(=CC=C1)C1OC1 | C20H20N2O3S
